US05663164
1.3 g of (6RS) (7RS) 7-[(1,1-dimethylethyloxy)-carbonylamino]-3-methylthio-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylic acid and 13 ml of nitromethane were stirred together cooled to 0° C., and a current of hydrochloric acid gas was passed through it for 15 minutes. 130 ml of ether were added, and after separating and rinsing with ether, 0.74 g of 7-amino-3-methylthio-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylic acid hydrochloride were obtained.

reactant | (6RS) (7RS) 7-[(1,1-dimethylethyloxy)-carbonylamino]-3-methylthio-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylic acid | 1.3 g | CC(C)(OC(=O)NC1C2CSC(=C(N2C1=O)C(=O)O)SC)C | C13H18N2O5S2
reactant | nitromethane | 13 ml | [N+](=O)([O-])C | CH3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 130 ml | CCOCC | C4H10O
product | 7-amino-3-methylthio-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylic acid hydrochloride | 0.74 g | Cl.NC1C2CSC(=C(N2C1=O)C(=O)O)SC | InChI=1S/C8H10N2O3S2.ClH/c1-14-8-5(7(12)13)10-3(2-15-8)4(9)6(10)11;/h3-4H,2,9H2,1H3,(H,12,13);1H
